US06589978B2
To a stirred solution of (2RS,5SR)-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-methanol (8.12 g, 23.2 mmol) in dichloromethane (150 ml) was added triethylamine (16.2 ml, 116 mmol). To the cooled solution (0° C.) was added dropwise over a period of 15 min pyridine-SO3-complex (18.3 g, 116 mmol) dissolved in DMSO (75 ml) and the reaction mixture was stirred for 1 h at 0° C. Aqueous work-up yielded (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxaldehyde (8.0 g, yield 99%) as a light brown oil.

reactant | (2RS,5SR)-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-methanol | 23.2 mmol, 8.12 g | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CO | C18H20FNO3S
reactant | triethylamine | 116 mmol, 16.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | DMSO | 75 ml | CS(=O)C | C2H6OS
product | (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxaldehyde | 8.0 g, yield 99% | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C=O | C18H18FNO3S
